US06924279B2
4-Nitrobenzyl (1R,5S,6S)-2-[(2S,4S)-2-[(3S)-3-[2-[2,3-bis(4-nitrobenzyloxy-carbonyl)guanidino]-acetylamino]pyrrolidin-1-ylcarbonyl]-1-methylpyrrolidin-4-ylthio]-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate
Hydrazine acetate (652 mg) was added to a solution of (2S,4S)-4-acetylthio-2-[(3S)-3-[2-[2,3-bis(4-nitrobenzyloxycarbonyl)guanidino]acetylamino]pyrrolidin-1-ylcarbonyl]-1-methylpyrrolidine (4.3 g) in N,N-dimethylformamide (86 ml) and stirred at room temperature for 4 hours. To the resulting mixture was added 4-nitrobenzyl (1R,5R,6S)-6-[(1R)-1-hydroxyethyl]-1-methyl-2-diphenylphosphoryloxy-1-carbapen-2-em-3-carboxylate (3.53 g) and N,N-diisopropylethylamine (1.34 ml) and allowed to react at −30° C. for 3 days. At the end of this time, to the reaction mixture was added 1% aqueous sodium hydrogencarbonate solution and the resulting precipitate was filtered, washed with water, and dissolved in a mixture of tetrahydrofuran and ethyl acetate (3:7). The resulting solution was washed successively with saturated aqueous sodium hydrogencarbonate solution, water and saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated in vacuo. The resulting residue was chromatographed on a silica gel column using 10% methanol/ethyl acetate and 20% methanol/ethyl acetate as the eluant to afford the crude desired product. The product was dissolved in tetrahydrofuran and reprecipitated with a mixture of ethyl acetate and ether (1:1) to give the desired compound (4.02 g) as a pale yellow powder.

reactant | Hydrazine acetate | 652 mg | C(C)(=O)O.NN
reactant | (2S,4S)-4-acetylthio-2-[(3S)-3-[2-[2,3-bis(4-nitrobenzyloxycarbonyl)guanidino]acetylamino]pyrrolidin-1-ylcarbonyl]-1-methylpyrrolidine | 4.3 g | C(C)(=O)S[C@H]1C[C@H](N(C1)C)C(=O)N1C[C@H](CC1)NC(CNC(=NC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])NC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C31H36N8O11S
reactant | 4-nitrobenzyl (1R,5R,6S)-6-[(1R)-1-hydroxyethyl]-1-methyl-2-diphenylphosphoryloxy-1-carbapen-2-em-3-carboxylate | 3.53 g | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)OP(=O)(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C29H27N2O8P
reactant | N,N-diisopropylethylamine | 1.34 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 86 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-Nitrobenzyl (1R,5S,6S)-2-[(2S,4S)-2-[(3S)-3-[2-[2,3-bis(4-nitrobenzyloxy-carbonyl)guanidino]-acetylamino]pyrrolidin-1-ylcarbonyl]-1-methylpyrrolidin-4-ylthio]-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | 4.02 g | [N+](=O)([O-])C1=CC=C(COC(=O)N=C(NCC(=O)N[C@@H]2CN(CC2)C(=O)[C@H]2N(C[C@H](C2)SC=2[C@@H]([C@H]3N(C2C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C([C@@H]3[C@@H](C)O)=O)C)C)NC(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C=C1 | C46H50N10O16S
